US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 53 using (S)-4-(tert-butoxycarbonylamino)-6-methoxythiochromane-7-carboxylic acid (300 mg), 4-aminopyridine (83.3 mg) and 2-chloro-1-methylpyridinium iodide (271 mg), the objective (S)-4-(tert-butoxycarbonylamino)-6-methoxy-N-(4-pyridyl)thiochromane-7-carboxamide (274 mg) was obtained as a pale-red amorphous solid.

reactant | (S)-4-(tert-butoxycarbonylamino)-6-methoxythiochromane-7-carboxylic acid | 300 mg | C(C)(C)(C)OC(=O)N[C@H]1CCSC2=CC(=C(C=C12)OC)C(=O)O | C16H21NO5S
reactant | 4-aminopyridine | 83.3 mg | NC1=CC=NC=C1 | C5H6N2
reactant | 2-chloro-1-methylpyridinium iodide | 271 mg | [I-].ClC1=[N+](C=CC=C1)C
product | (S)-4-(tert-butoxycarbonylamino)-6-methoxy-N-(4-pyridyl)thiochromane-7-carboxamide | 274 mg | C(C)(C)(C)OC(=O)N[C@H]1CCSC2=CC(=C(C=C12)OC)C(=O)NC1=CC=NC=C1 | C21H25N3O4S
